US06822116B2
When this racemization occurs in the presence of a D-hydantoinase, the L-isoleucine hydantoin establishes an equilibrium with the D-allo-isoleucine hydantoin, and the D-allo-isoleucine hydantoin is selectively hydrolyzed by the D-hydantoinase to form the N-carbamoyl-D-allo-isoleucine. As the D-allo-isoleucine hydantoin is depleted from the mixture by D-hydantoinase-catalyzed hydrolysis, the equilibrium between the L-isoleucine hydantoin and the D-allo-isoleucine hydantoin is re-established under the epimerizing conditions, continuously generating additional D-allo-isoleucine hydantoin for stereoselective hydrolysis by the D-hydantoinase enzyme. This continual supply of the hydantoin of D-allo-isoleucine occurs during the course of the reaction until substantially all of the L-isoleucine hydantoin has been converted to N-carbamoyl-D-allo-isoleucine. In this way, the reaction can be carried out to substantial Jun. 7, 2002 completion so that L-isoleucine hydantoin is converted to N-carbamoyl-D-allo-isoleucine. By the term “substantial completion” is meant that at least about 75%, preferably at least about 85%, and most preferably at least about 95%, of the L-isoleucine hydantoin is converted to N-carbamoyl-D-allo-isoleucine. The yield of N-carbamoyl-D-allo-isoleucine produced by the method of the present invention can approach 100% of theoretical, given sufficient reaction time and/or sufficient hydantoinase enzyme. The reaction can be monitored, if desired, by any method known in the art. An example of a method useful for monitoring the extent of reaction in the D-hydantoinase-catalyzed hydrolysis is thin layer chromatography on silica gel. Alternatively, high performance liquid chromatography can be used to monitor the extent of reaction.

reactant | L-isoleucine hydantoin | N1C(=O)NC(=O)C1.N[C@@H]([C@@H](C)CC)C(=O)O
reactant | D-allo-isoleucine hydantoin | N1C(=O)NC(=O)C1.N[C@H]([C@@H](C)CC)C(=O)O
product | N-carbamoyl-D-allo-isoleucine | C(N)(=O)N[C@H]([C@@H](C)CC)C(=O)O | C7H14N2O3
